US06232025B1
Poly(phenolphthalein-benzophenone) (P(PHENOLPH-BNZPH)
Polymerization was carried out similar to the P(BPZ-BNZPH) polymerization, except phenolphthalein (15.0000 g, 47.12 mmol), potassium carbonate (13.02 g, 94.28 mmol), 4,4′-difluorobenzophenone (10.2819 g, 47.12 mmol), toluene (117 g) and N,N-dimethylacetamide 100 g) were used. The yield was about 21.87 g. The number average molecular weight of the polymer was about 40.4 K.

reactant | phenolphthalein | 47.12 mmol, 15.0000 g | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | potassium carbonate | 94.28 mmol, 13.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,4′-difluorobenzophenone | 47.12 mmol, 10.2819 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | toluene | 117 g | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylacetamide | 100 g | CN(C(C)=O)C | C4H9NO
product | phenolphthalein benzophenone | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O.C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | InChI=1S/C20H14O4.C13H10O/c21-15-9-5-13(6-10-15)20(14-7-11-16(22)12-8-14)18-4-2-1-3-17(18)19(23)24-20;14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12/h1-12,21-22H;1-10H
